US05958978
Synovial tissue obtained from a patient suffering from chronic articular rheumatism was placed in a Petri dish, cut and shredded, to which a 0.2% solution of collagenase was added. The mixture was left over for 2 hours under conditions of 5% CO2 and 37° C. An equiamount of a 0.25% solution of trypsin was further added, and the resultant mixture was left over for 2 hours. After cells isolated were collected and centrifuged (170 ×g, 10 minutes) to remove the supernatant liquid thereof, a medium [obtained by adding 10% FCS (fetal calf serum), 2 mM glutamine, 100 U/ml of penicillin, 100 μg/ml of streptomycin and 25 ng/ml of Fungizone to DMEM (Dulbecco modified minimum essential medium)] was added to the cells to wash them once. The cells were suspended in the medium, and the suspension was poured into a Petri dish and cultured under conditions of 5% CO2 and 37° C. Cells adhered to the bottom of the Petri dish were provided as synovial cells. The cells (1×105 cells/ml) were poured in 1-ml portions into wells of a 24-well plate and cultured under conditions of 5% CO2 and 37° C. After the cells were proliferated to an extent that they covered almost the entire surface of each well, the medium was changed to an SFM-101 medium (product of Nissui Seiyaku K.K.) containing 1% FCS. Added to an assigned well were 5 μl (end concentration: 0.001-100 μM) of a solution of 4'-hydroxydiclofenac, indomethacin or diclofenac. Furthermore, 10 μl (end concentration: 200 pg/ml) of a solution of IL-1βand 10 μl (end concentration: 10 μM) of arachidonic acid were added to conduct culture for 22 hours under conditions of 5% CO2 and 37° C. After the culture, the supernatant liquid thereof was collected and filtered through a membrane filter (pore size: 0.22 μm, MILLIPORE), thereby determining the amount of prostaglandin E2 in the filtrate in accordance with the enzyme immunoassay. The effect of each test agent on the production of prostaglandin E2 by the human synovial cells was determined by the average value of the amounts of prostaglandin E2 produced, which were obtained by repeating the above process 3 times, and the amount of prostaglandin E2 produced by using DMSO in place of the test agent to conduct the same treatment as described above. The results are shown in Table 3.

reactant | CO2 | C(=O)=O | CO2
reactant | 4'-hydroxydiclofenac | C1=CC=C(C(=C1)CC(=O)O)NC2=C(C=C(C=C2Cl)O)Cl | C14H11Cl2NO3
reactant | indomethacin | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | diclofenac | C=1C=CC(=C(C1)CC(=O)O)NC=2C(=CC=CC2Cl)Cl | C14H11Cl2NO2
solvent | arachidonic acid | 10 μl | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)(=O)O | C20H32O2
product | prostaglandin E2 | CCCCC[C@@H](/C=C/[C@H]1[C@@H](CC(=O)[C@@H]1C/C=C\CCCC(=O)O)O)O | C20H32O5
